US05149523
The polystyrenesulfonate of 4-[3-[ethyl[3-(propylsulfinyl)-propyl]amino]-2-hydroxypropoxy]benzonitrile
To a stirred solution of 4-[3-[ethyl[3-(propylsulfinyl)-propyl]amino]-2-hydroxypropoxy]benzonitrile·HCl (5.5 g) in ethanol:water (1:1) (30 ml) was added sodium polystyrenesulfonate (5 g) at room temperature. After 30 minutes the resin was filtered and washed with ethanol:water (1:1) three times, and dried under high vacuum to constant weight.

reactant | 4-[3-[ethyl[3-(propylsulfinyl)-propyl]amino]-2-hydroxypropoxy]benzonitrile·HCl | 5.5 g | C(C)N(CC(COC1=CC=C(C#N)C=C1)O)CCCS(=O)CCC.Cl
reactant | sodium | [Na] | Na
solvent | ethanol water | 30 ml | C(C)O.O
product | 4-[3-[ethyl[3-(propylsulfinyl)-propyl]amino]-2-hydroxypropoxy]benzonitrile | C(C)N(CC(COC1=CC=C(C#N)C=C1)O)CCCS(=O)CCC | C18H28N2O3S
